US06380218B1
4-Acetyl-2-fluoro-benzonitrile
A mixture of 4-Bromo-2-fluoro-benzonitrile (5.0 grams, 20.0 mmole), butyl vinyl ether (12.5 grams, 124.0 mmole), triethylamine (4.0 grams, 40.0 mmole), dppp (0.453 grams, 1.1 mmole), Thallium acetate (5.8 grams, 22.0 mmole) and Pd(OAc)2 (0.224 grams, 1.0 mmole) in dimethylformamide (50 ml) under N2 was heated to 90° C. for 3 hours. An additional 0.453 g dpp and 0.244 g Pd(OAc)2 was added and the mixture was heated to 90° C. for 4 hours. The mixture was cooled to room temperature, 25 ml 2 N hydrochloric acid was added and the mixture was stirred at room temperature for 30 hours. The mixture was poured into 300 ml water and extracted with diethyl ether. The combined extracts were washed with water and brine, dried over magnesium sulfate and concentrated to give an oil which was purified via flash chromatography on silica using 30% ethyl acetate/hexane as eluent to give an oil (2.5 g). 1H-NMR (CDCl3): δ2.63 (s, 3H), 7.73 (m, 2H), 7.81 (m, 1H).

reactant | 4-Bromo-2-fluoro-benzonitrile | 20.0 mmole, 5.0 grams | BrC1=CC(=C(C#N)C=C1)F | C7H3BrFN
reactant | butyl vinyl ether | 124.0 mmole, 12.5 grams | C(=C)OCCCC | C6H12O
reactant | triethylamine | 40.0 mmole, 4.0 grams | C(C)N(CC)CC | C6H15N
reactant | Thallium acetate | 22.0 mmole, 5.8 grams | C(C)(=O)[O-].[Tl+]
reactant | hydrochloric acid | 2 N, 25 ml | Cl | ClH
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
catalyst | Pd(OAc)2 | 1.0 mmole, 0.224 grams | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | Pd(OAc)2 | 0.244 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | dppp | 1.1 mmole, 0.453 grams | C=1C=CC(=CC1)P(CCCP(C=2C=CC=CC2)C=3C=CC=CC3)C=4C=CC=CC4 | C27H26P2
solvent | water | 300 ml | O | H2O
product | 4-Acetyl-2-fluoro-benzonitrile | 2.5 g | C(C)(=O)C1=CC(=C(C#N)C=C1)F | C9H6FNO
